US06306892B1
According to the procedure described in Example 1(a) for the preparation of 3-biphenyl-4-yl-furan, 4-bromopyridine hydrochloride (500 mg, 2.57 mmol) was coupled to fresh 3-furanboronic acid (see Thompson, W. J.; Gaudino, G. J. Org. Chem. 1984, 49, 5237-5243) to furnish 373 mg (100%) of crude 4-furan-3-yl-pyridine as an unstable solid that was used immediately. NMR and IR matched that of literature (see Ribereau, P.; Queguiner, G. Can. J. Chem. 1983, 61, 334-342 and Ishikura, M.; Ohta, T.; Terashima, M. Chem. Pharm. Bull. 1985, 33, 4755-4763).

reactant | 3-biphenyl-4-yl-furan | C1(=CC=C(C=C1)C1=COC=C1)C1=CC=CC=C1 | C16H12O
reactant | 4-bromopyridine hydrochloride | 2.57 mmol, 500 mg | Cl.BrC1=CC=NC=C1
reactant | 3-furanboronic acid | O1C=C(C=C1)B(O)O | C4H5BO3
product | 4-furan-3-yl-pyridine | 373 mg, 100% | O1C=C(C=C1)C1=CC=NC=C1 | C9H7NO
